US09233098B2
6. Preparation of methyl 2-[1-(4-nitrobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate
Methyl 2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetate (250 mg, 1.31 mmol), cesium carbonate (850 mg, 2.61 mmol), were added into 30 mL tetrahydrofuran, and stirred at room temperature for 15 minutes. Then 4-nitrobenzyl bromide (283 mg, 1.31 mmol) was added, and reacted at room temperature for 12 hours. It was filtered to remove the solid. The filtrate was rotate evaporated to dryness, and chromatographed on a column (PE:EA=10:1) to obtain a light yellow solid 75 mg, at a yield of 17.6%.

reactant | Methyl 2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetate | 1.31 mmol, 250 mg | N1N=C(C=2C1=NC=CC2)CC(=O)OC | C9H9N3O2
reactant | cesium carbonate | 2.61 mmol, 850 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-nitrobenzyl bromide | 1.31 mmol, 283 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl 2-[1-(4-nitrobenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate | 75 mg, yield of 17.6% | [N+](=O)([O-])C1=CC=C(CN2N=C(C=3C2=NC=CC3)CC(=O)OC)C=C1 | C16H14N4O4
